US07893267B2
1.8 g (9.0 mmol) of 2-amino-6-fluoro-3-nitro-benzoic acid in methanol and 2.9 g (54 mmol) of NaOMe was heated at 90° C. overnight to produce 1.6 g (7.5 mmol 83%) of 2-amino-6-methoxy-3-nitro-benzoic acid. LCMS: 213 (M+1)+.

reactant | 2-amino-6-fluoro-3-nitro-benzoic acid | 9.0 mmol, 1.8 g | NC1=C(C(=O)O)C(=CC=C1[N+](=O)[O-])F | C7H5FN2O4
reactant | NaOMe | 54 mmol, 2.9 g | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 2-amino-6-methoxy-3-nitro-benzoic acid | 7.5 mmol, 1.6 g, 83% | NC1=C(C(=O)O)C(=CC=C1[N+](=O)[O-])OC | C8H8N2O5
